US07595415B2
3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid amide (1.13 g, 4.12 mmol) prepared in Reference Synthetic Example 8 was dissolved in tetrahydrofuran (23 ml) in nitrogen atmosphere, and tetrakistriphenylphosphine palladium(0) (95.2 mg, 0.082 mmol) was added under cooling with ice, and then a tetrahydrofuran solution (17 ml) of tri-n-butyltin hydride (5.2 ml, 19.3 mmol) was dropwise added. After stirring for 30 minutes, carbon tetrachloride was added to terminate the reaction, and potassium fluoride was added, followed by stirring for 30 minutes. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give (E)-2-(tributylstannyl)-3-(4-tert-butyldimethylsilyloxyphenyl)acrylamide (1.51 g, 65%) as a pale yellow oily substance.

reactant | 3-(4-tert-butyldimethylsilyloxyphenyl)propionic acid amide | 4.12 mmol, 1.13 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)N | C15H25NO2Si
reactant | tri-n-butyltin hydride | 19.3 mmol, 5.2 ml | C(CCC)[SnH](CCCC)CCCC
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | (E)-2-(tributylstannyl)-3-(4-tert-butyldimethylsilyloxyphenyl)acrylamide | 1.51 g, 65% | C(CCC)[Sn](\C(\C(=O)N)=C\C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)(CCCC)CCCC | InChI=1S/C15H22NO2Si.3C4H9.Sn/c1-15(2,3)19(4,5)18-13-9-6-12(7-10-13)8-11-14(16)17;3*1-3-4-2;/h6-10H,1-5H3,(H2,16,17);3*1,3-4H2,2H3;
